US07842701B2
3-amino-2-(5-benzyloxy-2-methylphenyl)-7,8-dimethoxy-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 4-chloro-6,7-dimethoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile (53 mg), 5-benzyloxy-2-methylphenylhydrazine hydrochloride (53 mg), triethylamine (84 μl) and ethanol (5 ml) was stirred at 80° C. for 24 hours. After cooling, 10% citric acid was added thereto, extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography to obtain the target compound (68 mg).

reactant | 4-chloro-6,7-dimethoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 53 mg | ClC1=C(C(NC2=CC(=C(C=C12)OC)OC)=O)C#N | C12H9ClN2O3
reactant | 5-benzyloxy-2-methylphenylhydrazine hydrochloride | 53 mg | Cl.C(C1=CC=CC=C1)OC=1C=CC(=C(C1)NN)C
reactant | triethylamine | 84 μl | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-amino-2-(5-benzyloxy-2-methylphenyl)-7,8-dimethoxy-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 68 mg | NC=1N(N=C2C1C(NC=1C=C(C(=CC21)OC)OC)=O)C2=C(C=CC(=C2)OCC2=CC=CC=C2)C | C26H24N4O4
